US08217064B2
A mixture of 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-acetate (0.750 g, 2.0 mmol), 4-trifluoromethyl phenylboronic acid (0.567 g, 3.0 mmol), Pd (PPh3)4 (0.231 g, 0.2 mmol), cesium fluoride (0.604 g, 4.0 mmol) in DME (10 ml) was stirred overnight at 100° C., upon which the precipitates were removed by filtration. The filtrate was diluted with water and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water followed by brine and dried over Na2SO4. The crude residue was purified by flash column chromatography to give ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate (0.525 g, 73.6%) as an off white solid.

reactant | 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-acetate | 2.0 mmol, 0.750 g | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)CC(=O)[O-]
reactant | 4-trifluoromethyl phenylboronic acid | 3.0 mmol, 0.567 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | cesium fluoride | 4.0 mmol, 0.604 g | [F-].[Cs+]
reactant | DME | 10 ml | COCCOC | C4H10O2
catalyst | Pd (PPh3)4 | 0.2 mmol, 0.231 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate | 0.525 g, 73.6% | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)CC(=O)OCC | C19H15ClF6O3
